US09029544B2
(R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(5-(trifluoromethyl)pyridin-2-yl)methanol
Obtained by starting from (S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde and 2-bromo-5-(trifluoromethyl)pyridine.

reactant | (S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C2CCOCC2)C=O)C=2CCOCC2 | C29H43NO4Si
reactant | 2-bromo-5-(trifluoromethyl)pyridine | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
product | (R)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(5-(trifluoromethyl)pyridin-2-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C2CCOCC2)[C@@H](O)C2=NC=C(C=C2)C(F)(F)F)C=2CCOCC2 | C35H47F3N2O4Si
